US04329347
4-Methyl-6-[4-(4-biphenylyl-sulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 4-methyl-6-[4-(4-biphenylyl-mercapto)-butoxy]-carbostyril (m.p. 174°-176° C.) and hydrogen peroxide.

reactant | 4-methyl-6-[4-(4-biphenylyl-mercapto)-butoxy]-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCSC1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H25NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 4-Methyl-6-[4-(4-biphenylyl-sulfinyl)-butoxy]-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCS(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H25NO3S
